US05328637
A solution of 3.2 g of 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4(1-hydroxypropyl)-benzene and 0.3 g of p-toluenesulphonic acid in 70 ml of toluene is heated at reflux temperature for one hour, then cooled, washed with saturated sodium bicarbonate solution and dried over anhydrous magnesium sulphate. Evaporation of the solvent gives 1-[4-(4-pentylphenyl)phenyl]-2,3-difluoro-4-(1-propenyl)-benzene as a crude Z/E isomer mixture.

reactant | 1-[4-(4-pentylphenyl)-phenyl]-2,3-difluoro-4(1-hydroxypropyl)-benzene | 3.2 g | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C(CC)O)F)F | C26H28F2O
reactant | p-toluenesulphonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(4-pentylphenyl)phenyl]-2,3-difluoro-4-(1-propenyl)-benzene | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=C(C=C1)C=CC)F)F | C26H26F2
